US04980349
a) Preparation of 2,4-dichloro-5-nitrobenzophenone
The reaction is carried out as in Example 10 a) by reacting chlorobenzene with 2-chloro-5-nitrobenzoyl chloride in the presence of aluminium chloride.

reactant | 2-chloro-5-nitrobenzoyl chloride | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 2,4-dichloro-5-nitrobenzophenone | ClC1=C(C(=O)C2=CC=CC=C2)C=C(C(=C1)Cl)[N+](=O)[O-] | C13H7Cl2NO3
